US08877759B2
A 1 L 3 neck round bottom flask was fitted with a mechanical stirrer, a cooling bath used as secondary containment, an addition funnel, a J-Kem temperature probe and a nitrogen inlet/outlet. The vessel was charged under nitrogen with 3-amino-6-bromopyrazine-2-carbohydrazide (12 g, 51.72 mmol), 4-(bromomethyl)benzoic acid (11.12 g, 51.72 mmol) and acetonitrile (460 ml, 20 ml/g based on the mass of the two reagents). Stirring was commenced and the pot temperature was recorded at 21° C. The suspension was then treated with dibromo(triphenyl)phosphorane (98.22 g, 232.7 mmol) added as a solid in one portion. The suspension was continued to stir at ambient temperature for 1 hour. The addition funnel was then charged with diisopropylethylamine (54 ml, 310.3 mmol) which was added neat drop wise over 1 hour, which resulted in an exotherm to 30° C. The resulting light brown suspension was continued to stir at ambient temperature for 20 hours. The reaction mixture was vacuum filtered through a glass frit buchner funnel and the filter cake was displacement washed with acetonitrile (2×150 ml) followed by hexane (250 ml). The material was further dried under vacuum to provide the product 5-bromo-3-(5-(4-(bromomethyl)phenyl)-1,3,4-oxadiazol-2-yl)pyrazin-2-amine as a yellow solid (16.4 g, 39.89 mmol, 77% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 4.82 (s, 2H), 7.72 (d, J=8.2 Hz, 2H), 7.80 (s, 2H), 8.11 (d, J=8.1 Hz, 2H), 8.45 (s, 1H)

reactant | 3-amino-6-bromopyrazine-2-carbohydrazide | 51.72 mmol, 12 g | NC=1C(=NC(=CN1)Br)C(=O)NN | C5H6BrN5O
reactant | 4-(bromomethyl)benzoic acid | 51.72 mmol, 11.12 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | dibromo(triphenyl)phosphorane | 232.7 mmol, 98.22 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
reactant | diisopropylethylamine | 310.3 mmol, 54 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-bromo-3-(5-(4-(bromomethyl)phenyl)-1,3,4-oxadiazol-2-yl)pyrazin-2-amine | 39.89 mmol, 16.4 g, 77% yield | BrC=1N=C(C(=NC1)N)C=1OC(=NN1)C1=CC=C(C=C1)CBr | C13H9Br2N5O
